US06046216
3-Cyano-6-(5-fluoro-2-propoxyphenyl)-2(1H)-pyridinone
A stirred mixture of 3-dimethylamino-1-(5-fluoro-2-propoxyphenyl)-2-propene-1-one (2.46 g), cyanoacetamide (0.93 g), sodium methoxide (from 50% sodium hydride, 1.69 g, and methanol, 0.85 ml) in dimethylformamide (20 ml) was heated under reflux for 7 hours. The mixture was poured into water (150 ml) and acetic acid added to pH 4 to give a crude product. Recrystallization twice from acetonitrile gave a solid, 0.68 g, which was washed with petroleum ether and recrystallized again from acetonitrile to give the pure title compound, 0.15 g, m.p. 242-243° C.

reactant | 3-dimethylamino-1-(5-fluoro-2-propoxyphenyl)-2-propene-1-one | 2.46 g | CN(C=CC(=O)C1=C(C=CC(=C1)F)OCCC)C | C14H18FNO2
reactant | cyanoacetamide | 0.93 g | C(#N)CC(=O)N | C3H4N2O
reactant | sodium methoxide | 0.85 ml, 1.69 g | C[O-].[Na+]
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Cyano-6-(5-fluoro-2-propoxyphenyl)-2(1H)-pyridinone | C(#N)C=1C(NC(=CC1)C1=C(C=CC(=C1)F)OCCC)=O | C15H13FN2O2
